US05317016
To a solution of (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol (8.7 g: 24.2 mmole) in dichloromethane(80 ml) are added triethylamine (4.05 ml), p-toluenesulfonyl chloride (5.08 g) and 4-dimethylaminopyridine (148 mg). The mixture is stirred at room temperature overnight. The reaction mixture is washed with water and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene:ethyl acetate=1:1) to give (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate (11.75 g). Yield: 95%. NMR δ(CDCl3) ppm: 2.2 to 2.5(m), 2.44(s, 3H), 2.98(s, 3H), 3.4 to 3.6(m, 2H), 3.82(s, 3H), 3.8 to 4.6(m), 5.03, 4.95(ABq, J=12 Hz, 2H), 5.2 (br s, 1H), 6.89(d, J=8.6 Hz, 2H), 7.18 to 7.4(m, 4H), 7.6 to 7.8(m, 2H). IR ν (CHCl3) cm-1 : 1698, 1612.

reactant | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol | 24.2 mmole, 8.7 g | COC1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OS(=O)(=O)C)CO)C=C1 | C15H21NO7S
reactant | triethylamine | 4.05 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 5.08 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 148 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S,4R)-1-p-methoxybenzyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol p-toluenesulfonate | 11.75 g, Yield: 95% | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)OC)C | C22H27NO9S2
